US07786157B2
5-Chloro-thiophene-2-carboxylic acid {2-[3-(3-chloro-2-methyl-phenyl)-4-oxo-imidazolidin-1-yl]-2-oxo-ethyl}-(2-methoxy-ethyl)-amide
The title compound was prepared by procedure analogous to that described in Example 12 using 3-(3-Chloro-2-methyl-phenyl)-1-[2-(2-methoxy-ethylamino)-acetyl]-imidazolidin-4-one and 5-Chloro-thiophene-2-carboxylic acid. LCMS observed for (M+H)+: 470.2

reactant | 3-(3-Chloro-2-methyl-phenyl)-1-[2-(2-methoxy-ethylamino)-acetyl]-imidazolidin-4-one | ClC=1C(=C(C=CC1)N1CN(CC1=O)C(CNCCOC)=O)C | C15H20ClN3O3
reactant | 5-Chloro-thiophene-2-carboxylic acid | ClC1=CC=C(S1)C(=O)O | C5H3ClO2S
product | 5-Chloro-thiophene-2-carboxylic acid {2-[3-(3-chloro-2-methyl-phenyl)-4-oxo-imidazolidin-1-yl]-2-oxo-ethyl}-(2-methoxy-ethyl)-amide | ClC=1C(=C(C=CC1)N1CN(CC1=O)C(CN(C(=O)C=1SC(=CC1)Cl)CCOC)=O)C | C20H21Cl2N3O4S
